US05360800
Phenylmethyl 5-methyl-4-[(2,3,4,5-tetrahydro-5-methyl-1-oxo-1H-pyrido[4,3-b]indol-2yl)methyl]-1H-imidazole-1-carboxylate
A solution of benzyl chloroformate (0.28 ml) in dichloromethane (10 ml) was added to a stirred solution of 2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1one (294 mg) and triethylamine (0.4 ml) in dichloromethane (30 ml) at 20° under nitrogen, and the mixture was stirred overnight. It was then concentrated onto FCC silica and purified by FCC eluting with System A (200:8:1) to give the title compound (62 mg), t.l.c. (System A, 100:8:1) Rf 0.50.

reactant | benzyl chloroformate | 0.28 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1one | 294 mg | CN1C2=C(C=3C=CC=CC13)C(N(CC2)CC=2N=CNC2C)=O | C17H18N4O
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Phenylmethyl 5-methyl-4-[(2,3,4,5-tetrahydro-5-methyl-1-oxo-1H-pyrido[4,3-b]indol-2yl)methyl]-1H-imidazole-1-carboxylate | 62 mg | CC1=C(N=CN1C(=O)OCC1=CC=CC=C1)CN1C(C2=C(N(C=3C=CC=CC23)C)CC1)=O | C25H24N4O3
